US05019577
(d) Preparation of N-[4-(3-(2,4-Diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propylamino)-3-methoxybenzoyl]-(L)-glutamic acid
A solution of diethyl N-[4-(3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propylamino)-3-methoxybenzoyl]-(L)-glutamate (1.00 g, 1.55 mmoles) in 1.0N sodium hydroxide (25 mL) was stirred at 55° C. under nitrogen for 18 hours. The reaction mixture was chilled (ice bath) and adjusted to pH 2.5 by the gradual dropwise addition of 6N hydrochloric acid. After stirring cold 0.5 hour, the resulting precipitate was filtered, rinsed with pH 2.1 aqueous hydrochloric acid (2×25 mL), and dried to give a white solid; yield, 596 mg (83%); mp 165°-184° C. (grad. dec.); 1H-NMR (DMSO-d6) δ 1.56 (m, 2H), 1.8-2.2 (br m, 2H), 2.2-2.4 (m, 4H), 3.07 (m, 2H), 3.81 (s, 3H), 4.37 (m, 1H), 5.6 (br s, 1H), 5.74 (s, 2 H), 5.93 (s, 2H), 6.49 (d, Jo =8 Hz, 1H), 7.29 (d, Jm =2 Hz, 1H), 7.41 (dxd, Jo =8 Hz, Jm =2 Hz, 1H), 8.15 (d, 1H), 9.8 (v br s, 1H), 12.3 (v br s, 2H); uv (0.1N NaOH) 306 nm max (15100), 287 min (11700), 273 max (15200), 250 min (6500), 215 max (25800). Anal. Calcd. for C20H26N6O7.0.7H2O (Mr 475.07): C, 50.56; H, 5.81; N, 17.69. Found: C, 50.58; H, 5.85; N, 17.63.

reactant | diethyl N-[4-(3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propylamino)-3-methoxybenzoyl]-(L)-glutamate | 1.55 mmoles, 1.00 g | C(C)(=O)NC=1NC(C(=C(N1)N(C(C)=O)C(C)=O)CCCNC1=C(C=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1)OC)=O | C30H40N6O10
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | sodium hydroxide | 1.0N, 25 mL | [OH-].[Na+]
solvent | NaOH | 0.1N | [OH-].[Na+]
product | N-[4-(3-(2,4-Diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propylamino)-3-methoxybenzoyl]-(L)-glutamic acid | NC=1NC(C(=C(N1)N)CCCNC1=C(C=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C1)OC)=O | C20H26N6O7
